US07553964B2
1-[3-(4-Bromo-phenyl)-cis-cyclobutyl]-(2R)-2-methyl-pyrrolidine
To a solution of 3-(4-bromo-phenyl)-cyclobutanone (1 g, 4.44 mmol) in ethanol (20 mL) was added a solution of (R)-2-methylpyrrolidine (prepared according to the procedure that described in: R. Altenbach et al., WO 2004043458, and Y. Pu et al., Organic Process Research & Development, 9(1), 45-50, 2005) (0.75 g, 8.9 mmol) in toluene. Borane-pyridine complex (0.67 mL, 6.6 mmol) was added subsequently and stirred at ambient temperature for 16 hours. The mixture was concentrated under reduced pressure to dryness and partitioned between ethyl acetate and H2O. The organic layers were washed with brine, dried (MgSO4) and concentrated under reduced pressure. Chromatography of the residue eluting with a gradient of 1-2% (9:1 MeOH:concentrated NH4OH) in dichloromethane provided the title compound (680 mg, 52%) as the faster eluting component and the product from Example 1B (76 mg, 6%) as the slower eluting component. 1H NMR (300 MHz, CD3OD) δ 1.15 (d, J=6 Hz, 3 H), 1.46 (m, 1 H), 1.77 (m, 2 H), 1.99 (m, 1 H), 2.07 (m, 2 H), 2.34 (m, 1 H), 2.58 (m, 3 H), 3.04 (m, 2 H), 3.17 (m, 1 H), 7.17 (d, J=9 Hz, 2 H), 7.41 (d, J=9 Hz, 2 H); (DCl/NH3) m/z 294 (M+H)+.

reactant | 3-(4-bromo-phenyl)-cyclobutanone | 4.44 mmol, 1 g | BrC1=CC=C(C=C1)C1CC(C1)=O | C10H9BrO
reactant | (R)-2-methylpyrrolidine | C[C@H]1NCCC1 | C5H11N
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[3-(4-Bromo-phenyl)-cis-cyclobutyl]-(2R)-2-methyl-pyrrolidine | 680 mg, 52% | BrC1=CC=C(C=C1)[C@H]1C[C@H](C1)N1[C@@H](CCC1)C | C15H20BrN
